US07307075B2
(R,S)-4-[2-Hydroxy-3-(3-pentylbicyclo[3.2.1]oct-8-yl)-propyl]-4H-benzo[1,4]oxazin-3-one (123IS03)
Epichlorohydrin (0.48 g, 5.2 mmol), Cs2CO3 (2.3 g, 7.0 mmol), 4H-benzo[1,4]oxazin-3-one (0.52 g, 3.5 mmol) were stirred with dry DMF (7 mL) for 22 h. Thereafter the mixture was diluted with ether (50 mL) washed with water (10 mL) and then brine (10 mL). The organic phase was dried over Na2SO4, filtered, concentrated under reduced pressure and the residue was purified by flash CC (SiO2; CH2Cl2/acetone/MeOH 95:3:2). Of the resulting oil (0.060 g, 0.29 mmol) was dissolved in DMF (1.5 mL), 3-pentyl-8-azabicyclo[3.2.1]octane (0.060 g, 0.33 mmol) and Cs2CO3 (0.30 g, 0.81 mmol) were added and the mixture was shaken at 65° C. for 72 h. The mixture was then poured into ether (25 mL) washed with water (10 mL) and the water phase was extracted with ether (20 mL). The combined organic phase was washed with brine (10 mL), dried over Na2SO4, filtered, concentrated under reduced pressure and the residue was purified by cation exchange CC, followed by flash CC (SiO2; CH2Cl2:acetone:MeOH 85/10/5) to yield the title compound (0.060 g, 33% (from 4H-benzo[1,4]oxazin-3-one)). 1H NMR (CDCl3) δ 7.42 (dm, J=7.2 Hz, 1H), 7.05-6.94 (m, 3H), 4.60 (ABq, J=14.8, 16.8 Hz, 2H), 4.15 (dd, J=3.2, 14.0 Hz, 1H), 3.86-3.78 (mn, 3H), 3.14 (m, 2H), 2.54 (dd, J=4.8, 12.5 Hz, 1H), 2.22 (dd, J=9.2, 12.4 Hz), 2.16-1.98 (m, 2H), 1.98-1.83 (m, 2H), 1.72-1.55 (m, 3H), 1.43-1.34 (m, 2H), 1.42-1.15 (m, 8H), 0.87 (t, J=7.2 Hz). 13C NMR (CDCl3) δ 165.3, 145.5, 129.7, 124.2, 122.9, 117.0, 116.6, 67.9, 67.4, 60.9, 58.6, 56.7, 46.7, 38.3, 36.7, 36.5, 28.5, 28.3, 28.2, 27.1, 22.9, 14.3. HPLC-MS (ammonium acetate) [M+H]+=387.3.

reactant | Epichlorohydrin | 5.2 mmol, 0.48 g | C(Cl)C1CO1 | C3H5ClO
reactant | Cs2CO3 | 7.0 mmol, 2.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4H-benzo[1,4]oxazin-3-one | 3.5 mmol, 0.52 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | 3-pentyl-8-azabicyclo[3.2.1]octane | 0.33 mmol, 0.060 g | C(CCCC)C1CC2CCC(C1)N2 | C12H23N
reactant | Cs2CO3 | 0.81 mmol, 0.30 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | (R,S)-4-[2-Hydroxy-3-(3-pentylbicyclo[3.2.1]oct-8-yl)-propyl]-4H-benzo[1,4]oxazin-3-one | 0.060 g, 33% | O[C@@H](CN1C(COC2=C1C=CC=C2)=O)CC2[C@@H]1CC(CC2CC1)CCCCC | C24H35NO3
